2143-02-14 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2143-2-13**] 03:00 PM
   -Renal U/S:
   No hydronephrosis or discrete fluid collections. Heterogenous
   appearance right kidney and known metastases incompletely evaluated.
   Correlation with prior imaging and or CT/MR can be performed.
   -Cardiac enzymes remained flat
   -Remained on levophed, urine output still brisk
   -FS low initially and increased D10 to 60cc/hr
   Allergies:
   Quinolones
   Unknown;
   Oxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Coumadin (Warfarin) - [**2143-2-13**] 08:00 PM
   Omeprazole (Prilosec) - [**2143-2-13**] 08:00 PM
   Dextrose 50% - [**2143-2-14**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-14**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 83 (64 - 93) bpm
   BP: 116/80(85) {90/34(49) - 141/93(106)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  4,498 mL
                                                                    538 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    678 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    605 mL
   Urine:
                                                                  1,240 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,548 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   254 K/uL
   10.3 g/dL
   89 mg/dL
   2.1 mg/dL
   27 mEq/L
   4.6 mEq/L
   58 mg/dL
   107 mEq/L
   139 mEq/L
   33.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2143-2-13**]  02:30 PM
                             [**2143-2-13**]  02:51 PM
                             [**2143-2-13**]  08:57 PM
                             [**2143-2-14**]  04:10 AM
   WBC
   9.9
   Hct
   33.8
   Plt
   254
   Cr
   2.1
   TropT
   0.03
   0.03
   0.05
   Glucose
   77
   89
   Other labs: PT / PTT / INR:31.5/76.6/3.2, CK / CKMB /
   Troponin-T:40//0.05, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   83 yo male with h/o CAD, PAF, CHF, Renal Cell CA, CRI presents with
   unresponsiveness found to be hypoglycemic and have UTI.
   #Hypotension- Etiology may be sepsis vs volume depletion.He was found
   to have a positive U/A with >50WBCS (was was getting straight cath'd at
   rehab manipulating the region); he was currently being treated for a
   UTI at rehab (PICC in place); sensetivities from [**Hospital1 586**] reveal Klebsiella
   UTI sensetive only to Tigecycline (MIC of 1 and urine cultures at [**Hospital1 586**]
   had cleared by [**2056-1-24**]). Lactate 0.8 on admission. It could be a new
   bug causing UTI vs PICC line infection. Renal ultrasound overnight
   without  evidence of fluid collection/abscess
   -Continue Tigecycline 50mg q12
   -Maintain MAP>65
   -CVL in place
   -CVP goal [**8-15**]
   -Monitor serial lactates, CV02
   -Follow up blood, urine cultures
   -Follow up PICC line culture
   -consider ID consult if persistently febrile
   -Need to obtain records from [**Hospital1 586**] given extensive UTI history
   #[**Name (NI) 11457**] Pt found unresponsive; glucose at time 17; now MS
   improved after dextrose load. CT Head in ED prelminary read negative.
   Noted to have UTI; most likely MS changes due to combination of
   infection and hypoglycemia.  Other etiology could include seizure
   although less likely given above circumstances
   -Monitor FS closely
   -Follow up final read of CT
   #Hypoglycemia/DM-Patient presented with FS 15; persistantly
   hypoglycemic despite dextrose, may  have been due to long acting Lantus
   that was just resumed at rehab in setting of poor PO intake.
   -Monitor FS q1hour
   -Start D10W @ 40cc/hr
 increased to 60 overnight b/c low FS
   -Holding home insulin
   #CRI-Pts Creatinine 2.1 on admission which is baseline per his PCP.
   [**Name10 (NameIs) 4420**] likely [**2-5**] pre-renal given poor PO intake/UTI
   -Fluids
   -Monitor Cr daily
   #CAD-Pt has history of CAD; EKG with TWI and no old EKG for comparison.
   CE flat
   -Monitor on telemetry
   -Continue aspirin
   -Holding BB
   -Continue statin
   #PAF- Patient is V-paced but intermittently in A.Fibb
   -Continue coumadin; INR currently at goal but will monitor closely in
   setting of antibiotics
   -Daily INR
   -Holding Metoprolol in setting of hypotension
   #CHF: Appears euvolemic currently; will hold on additional fluids for
   now and use pressors for support
   -Holding home Lasix
   #Gout-  restart colchicine
   0.6mg q 48H
   #HTN- Hold BB for now given hypotension
   #H/O Gastric Ulcers
   -Continue PPI
   #Urinary Retention- On Flomax at home but was requiring straight cath
   at the nursing home
   -Holding Flomax given hypotension
   -[**Month (only) 8**] need urology consult
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, on coumadin, bowel regimen
   # ACCESS: CVL
   # CODE: FULL (confirmed with the wife)
   # CONTACT: Wife [**Name (NI) 11458**] [**Name (NI) **] [**Telephone/Fax (1) 11459**](h)
   [**Telephone/Fax (1) 11460**](c)
   # DISPO: ICU
 URINARY TRACT INFECTION (UTI)
 HYPOGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-2-13**] 03:00 PM
   18 Gauge - [**2143-2-13**] 08:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-02-14 09:58:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MULTI LUMEN - START [**2143-2-13**] 03:00 PM
   Renal ultrasound negative for hydro or abscess.
   Allergies:
   Quinolones
   Unknown;
   Oxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Coumadin (Warfarin) - [**2143-2-13**] 08:00 PM
   Omeprazole (Prilosec) - [**2143-2-13**] 08:00 PM
   Dextrose 50% - [**2143-2-14**] 12:05 AM
   Other medications:
   levophed 0.03, duloxetine, simvastatin, omeprazole, tigecylcine,
   coumadin 2.5 daily.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-14**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 90 (64 - 93) bpm
   BP: 108/62(73) {90/32(49) - 141/93(106)} mmHg
   RR: 28 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  4,498 mL
                                                                    809 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    678 mL
                                                                    729 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    905 mL
   Urine:
                                                                  1,240 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,548 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: erythematous right foot, around the joints.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   254 K/uL
   89 mg/dL
   2.1 mg/dL
   27 mEq/L
   4.6 mEq/L
   58 mg/dL
   107 mEq/L
   139 mEq/L
   33.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2143-2-13**]  02:30 PM
                             [**2143-2-13**]  02:51 PM
                             [**2143-2-13**]  08:57 PM
                             [**2143-2-14**]  04:10 AM
   WBC
   9.9
   Hct
   33.8
   Plt
   254
   Cr
   2.1
   TropT
   0.03
   0.03
   0.05
   Glucose
   77
   89
   Other labs: PT / PTT / INR:31.5/76.6/3.2, CK / CKMB /
   Troponin-T:40//0.05, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Imaging: Ultrasound findings noted.
   Assessment and Plan
 Hypotension: sepsis vs volume depletion.. improved. Will attempt to
   wean off pressors goal MAP 65 now 83. Appears volume replete at this
   point. Continue tigecylcine. Continue central line. No evidence of new
   organ dysfunction.
CHF: holding lasix
Gout/erythema of the leg: check serum uric acid, resume colchicine.
 URINARY TRACT INFECTION (UTI): + U/a unclear if has a UTI per se,
   follow up cultures.
 HYPOGLYCEMIA: continue D10W, resume diet, and d/c D10 W once diet is
   well established.
Blurry vision: call wife to obtain glasses.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-2-13**] 03:00 PM
   18 Gauge - [**2143-2-13**] 08:40 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2143-02-15 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PCP called for update, nothing to add
   - family visited
   - Culture data with GNRs in urine, awaiting speciation
   - Levophed weaned off early PM, not required any boluses or pressors
   since
   - Family and patient requesting transfer to [**Hospital1 586**]
   Allergies:
   Quinolones
   Unknown;
   Oxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2143-2-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-15**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 96 (75 - 97) bpm
   BP: 102/45(60) {87/40(51) - 123/81(88)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,208 mL
                                                                    223 mL
   PO:
                                                                    930 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,228 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                    560 mL
   Urine:
                                                                  2,705 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -497 mL
                                                                   -338 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   GENERAL: NAD, lying in bed, conversant
   HEENT:  Pupils 2mm reactive/equal bilaterally, Mucous membranes dry
   Neck: JVD not appreciated
   CARDIAC:Irregularly Irregular, no murmur appreciated
   LUNG: Clear bilaterally, no wheeze or rhonchi
   ABDOMEN: Slightly firm but nontender, nondistended +BS in all quadrants
   EXT: Trace edema bilaterally, erythema over the left foot extending to
   the mid dorsum
   NEURO: Alert to person, place/date,
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   89 mg/dL
   2.1 mg/dL
   27 mEq/L
   4.6 mEq/L
   58 mg/dL
   107 mEq/L
   139 mEq/L
   32.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2143-2-13**]  02:30 PM
                             [**2143-2-13**]  02:51 PM
                             [**2143-2-13**]  08:57 PM
                             [**2143-2-14**]  04:10 AM
                             [**2143-2-15**]  06:23 AM
   WBC
   9.9
   7.6
   Hct
   33.8
   32.1
   Plt
   254
   166
   Cr
   2.1
   TropT
   0.03
   0.03
   0.05
   Glucose
   77
   89
   Other labs: PT / PTT / INR:31.5/76.6/3.2, CK / CKMB /
   Troponin-T:40//0.05, Differential-Neuts:67.8 %, Lymph:22.2 %, Mono:8.0
   %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   83 yo male with h/o CAD, PAF, CHF, Renal Cell CA, CRI presents with
   unresponsiveness found to be hypoglycemic and have UTI.
   #Hypotension- Resolved. On presentation, etiology may have been sepsis
   vs volume depletion.He was found to have a positive U/A with >50WBCS
   (was was getting straight cath'd at rehab manipulating the region); he
   was currently being treated for a UTI at rehab (PICC in place);
   sensetivities from [**Hospital1 586**] reveal Klebsiella UTI sensetive only to
   Tigecycline (MIC of 1 and urine cultures at [**Hospital1 586**] had cleared by
   [**2056-1-24**]).  Here it is sentitive to gent. Lactate 0.8 on admission. It
   could be a new bug causing UTI vs PICC line infection. Renal ultrasound
   overnight without  evidence of fluid collection/abscess
   -Continue Tigecycline 50mg q12
   -CVP goal [**8-15**]
   -Follow up blood, urine cultures
   -Follow up PICC line culture
   - ID consult if persistently febrile
   - add tigecycline sensi
   -Need to obtain records from [**Hospital1 586**] given extensive UTI history
   #[**Name (NI) 11457**] Pt found unresponsive; glucose at time 17; now MS
   improved after dextrose load. CT Head in ED prelminary read negative.
   Noted to have UTI; most likely MS changes due to combination of
   infection and hypoglycemia.  Other etiology could include seizure
   although less likely given above circumstances
   -Monitor FS closely
   -Follow up final read of CT
   #Hypoglycemia/DM-Patient presented with FS 15; persistantly
   hypoglycemic despite dextrose, may  have been due to long acting Lantus
   that was just resumed at rehab in setting of poor PO intake.
   -Monitor FS q1hour
   -encourage po intake
   -Holding home insulin
   #CRI-Pts Creatinine 2.1 on admission which is baseline per his PCP.
   [**Name10 (NameIs) 4420**] likely [**2-5**] pre-renal given poor PO intake/UTI
   -Fluids
   -Monitor Cr daily
   #CAD-Pt has history of CAD; EKG with TWI and no old EKG for comparison.
   CE flat
   -Monitor on telemetry
   -Continue aspirin
   -Holding BB
   -Continue statin
   #PAF- Patient is V-paced but intermittently in A.Fibb
   -Continue coumadin; INR currently at goal but will monitor closely in
   setting of antibiotics
   -Daily INR
   -Holding Metoprolol in setting of hypotension
   #CHF: Appears euvolemic currently; will hold on additional fluids for
   now and use pressors for support
   -Holding home Lasix
   #Foot pain-  differential includes cellulitis vs gout.   Erythema is
   worsening
   -cont colchicine 0.6mg q 48H
   - ID consult regarding
   #HTN- Hold BB for now given hypotension
   #H/O Gastric Ulcers
   -Continue PPI
   #Urinary Retention- On Flomax at home but was requiring straight cath
   at the nursing home
   -Holding Flomax given hypotension
   -[**Month (only) 8**] need urology consult
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, on coumadin, bowel regimen
   # ACCESS: CVL
   # CODE: FULL (confirmed with the wife)
   # CONTACT: Wife [**Name (NI) 11458**] [**Name (NI) **] [**Telephone/Fax (1) 11459**](h)
   [**Telephone/Fax (1) 11460**](c)
   # DISPO: ICU
 URINARY TRACT INFECTION (UTI)
 HYPOGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-2-13**] 03:00 PM
   18 Gauge - [**2143-2-13**] 08:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-02-15 12:20:00 Physician Attending Progress Note
Chief Complaint: Hypotension.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Weaned off pressors. Urine culture growing klebs sensitive only to gent
   ([**First Name9 (NamePattern2) 11516**] [**Last Name (un) 46**] requested)
   Allergies:
   Quinolones
   Unknown;
   Oxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2143-2-14**] 08:00 PM
   Other medications:
   tigecycine, colchicine, duloxetine, omeprazole, simvastatin, coumadin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-15**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 99 (79 - 104) bpm
   BP: 111/61(72) {87/40(51) - 139/81(88)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,208 mL
                                                                    671 mL
   PO:
                                                                    930 mL
                                                                    450 mL
   TF:
   IVF:
                                                                  1,228 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                  1,160 mL
   Urine:
                                                                  2,705 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -497 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, elderly
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: PPP
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, erythematous rash of right foot/ankle
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   166 K/uL
   81 mg/dL
   1.9 mg/dL
   29 mEq/L
   4.7 mEq/L
   47 mg/dL
   106 mEq/L
   137 mEq/L
   32.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2143-2-13**]  02:30 PM
                             [**2143-2-13**]  02:51 PM
                             [**2143-2-13**]  08:57 PM
                             [**2143-2-14**]  04:10 AM
                             [**2143-2-15**]  06:23 AM
   WBC
   9.9
   7.6
   Hct
   33.8
   32.1
   Plt
   254
   166
   Cr
   2.1
   1.9
   TropT
   0.03
   0.03
   0.05
   Glucose
   77
   89
   81
   Other labs: PT / PTT / INR:29.0/54.1/2.9, CK / CKMB /
   Troponin-T:40//0.05, Differential-Neuts:67.8 %, Lymph:22.2 %, Mono:8.0
   %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   Hypotension: likely volume depletion resolved with IVF and no change in
   his antibiotics. Blood culture and PICC tip negative.
   UTI: urine with Klebsiella will add on [**Year (4 digits) 11516**] sensitivies,
   reported as only sensitive to gent. Will consult ID
   Conjunctivitis: start erythromycin.
   Hypoglycemia: still holding all insulin, will start low dose sliding
   scale for sugar >200.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-2-13**] 03:00 PM
   18 Gauge - [**2143-2-13**] 08:40 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to [**Hospital1 586**] based on family request. Stable to
   transfer to floor while awaiting transfer
   Total time spent: 35 minutes